US06500213B1
A) Synthesis of 2-Fluoro-5-nitro-1-phenylbenzene
1.75 g (0.01 mole) of 3-chloro-4-fluoronitrobenzene and 0.013 mole of phenylboric acid were dissolved in 70 mL of 1,2-dimethoxyethane under argon. Then, 0.5 g (0.0005 mole) of tetrakis(triphenylphosphine)palladium and 13 mL of 2N potassium carbonate solution were added, and the reaction mixture was heated to 80° C. At the end of the reaction, the reaction mixture was poured into 100 mL of ethyl acetate. The organic phase was extracted with dilute sodium hydroxide solution and then dried over magnesium sulfate. The solvent was distilled off from a rotary evaporator, and the residue was purified [by column chromatography] on silica gel using hexane/toluene (10:1) [as the eluent].

reactant | 3-chloro-4-fluoronitrobenzene | 0.01 mole, 1.75 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | phenylboric acid | 0.013 mole | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | potassium carbonate | 2N, 13 mL | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 70 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0005 mole, 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-5-nitro-1-phenylbenzene | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C12H8FNO2
